2198-07-18 10:31:00 Physician Attending Progress Note
Chief Complaint: Alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted to the [**Hospital Unit Name 44**] overnight after presenting to the ED with N/V
   after recently cutting back etoh intake.
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Colace, Protonix, Heparin SQ, Thiamine, Folate, neutraphos, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems:
   Gastrointestinal: Nausea, Emesis, mild abdominal pain in lower abdomen
   Flowsheet Data as of  [**2198-7-18**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 109 (96 - 115) bpm
   BP: 110/59(63) {110/59(63) - 154/101(114)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 27 Inch
             Total In:
             825 mL
   PO:
             100 mL
   TF:
   IVF:
   725 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,000 mL
   Urine:
   700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   Eyes / Conjunctiva: Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Abdominal: Soft, Non-tender, hepatomegaly
   Skin:  no rashes
   Neurologic: Very mild hand tremor. Follows commands. Attentive.
   Purposeful movement of all extremities. Oriented to person only. Visual
   hallucinations- thinks he sees people in room, thinks it
s raining (and
   it
s sunny), misuses words such as
parents
 instead of
patients.
   Says his confusion is chronic, which is difficult to refute or confirm.
   He is very much able to argue his points and adamantly refuses certain
   medications with lengthy explanations.
   Labs / Radiology
   94
   94
   0.8
   11
   3.9
   7
   103
   136
   37.6
   3.7
        [image002.jpg]
   Other labs: ALT / AST:66/122, Alk Phos / T Bili:119/4.4, Albumin:4.3,
   Ca++:7.9, Mg++:2.1, PO4:1.4
   Fluid analysis / Other labs: 7.28/14/114
   Assessment and Plan
   A/P: Pt is a 63y/o M with multiple medical problems admitted with
   alcoholic ketoacidosis and abdominal pain/N/V.
   .
   1. Mixed Acid base disturbance - pt with triple disorder of AG
   metabolic acidosis, respiratory alkalosis and non-anion gap acidosis.
       -Patient refusing blood draws today.
       -Will continue with IVF and encourage po intake if abd pain/N/V
   allows.
       -Continue Thiamine/Folate.
   2. Abdominal pain.  Very benign exam.
          -No amylase/lipase drawn at [**Hospital1 781**].  Will Check here.
   3. Pancytopenia - pt with low WBC, HCT and plts, most likely related to
   chronic liver disease leading to bone marrow suppression from EtOH.
         -Will check B12 level.  Folate supplementation has already begun.
   4. AMS -  Need to speak with PCP and determine baseline mental status,
   particularly as delirium would make me much more concerned about
   impending DTs.
   5. EtOH Abuse - per ED records last drink 5 days ago, will place on
   CIWA scale given unclear time course of EtOH ingestion.
       - SW consult in am
   - No signs of withdrawal now except possibly his mental status- working
   on understanding baseline.
   6. Tachycardia:  Started this AM.  No clear signs of etoh w/d.  [**Month (only) 60**] be
   pain, anxiety or BB withdrawal.
      -Will monitor for signs of w/d as above.
   7. COPD - continue supportive management, albuterol prn
   8. Hx cardiac arrest - unclear etiology. Given EtOH history will
   aggressively replete electrolytes, monitor K and Mg and maintain K>4
   and Mg>2. Continue metoprolol.
   9.  FEN - regular diet if tolerates
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-7-18**] 03:00 AM
   20 Gauge - [**2198-7-18**] 03:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor once we determine mental status issue-
   baseline or new delerium
   Total time spent:

2198-07-19 07:28:00 Physician Resident Progress Note
Chief Complaint: EtOH Withdrawal
   EtOH Ketoacidosis
   24 Hour Events:
   Deemed incompetent by psych and likely in ETOH withdrawal
   Placed in 4 point restraints and given ativan and haldol
   Monitored on CIWA
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2198-7-18**] 05:50 PM
   Lorazepam (Ativan) - [**2198-7-19**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-7-19**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 92 (92 - 145) bpm
   BP: 138/89(98) {102/47(76) - 180/109(115)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 27 Inch
             Total In:
                                                                  3,984 mL
                                                                    763 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                  3,764 mL
                                                                    763 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    180 mL
   Urine:
                                                                  1,800 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,884 mL
                                                                    583 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   69 K/uL
   10.8 g/dL
   110 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.0 mEq/L
   4 mg/dL
   106 mEq/L
   138 mEq/L
   31.0 %
   2.5 K/uL
        [image002.jpg]
                             [**2198-7-18**]  10:33 AM
                             [**2198-7-19**]  12:00 AM
                             [**2198-7-19**]  06:25 AM
   WBC
   3.9
   2.5
   Hct
   33.5
   31.0
   Plt
   93
   69
   Cr
   0.7
   0.4
   0.5
   Glucose
   129
   110
   Other labs: PT / PTT / INR:13.3/31.7/1.1, ALT / AST:34/77, Alk Phos / T
   Bili:78/3.5, Amylase / Lipase:64/118, Albumin:3.8 g/dL, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   #. AMS - Unclear baseline
 per PCP pt is commonly histrionic in
   conversation but no know history of visual/auditory hallucination.  Pt
   evaluated by Psychiatry and deemed incompetent to make medical
   decisions. Concern for EtOH withdrawal given history of heavy EtOH use.
   Pt has been  somnolent on low doses of ativan, agitation and
   non-compliance with medical intervention may be contributed to by
   dementia and personality d/o rather than pure EtOH withdrawal.
   - Continue IVF/electrolyte repletion
   - Start standing ativan 2mg Q6
 plan to wean
 ensure tx of withdrawal
   sx, if no improvement over next 24-48 hrs consider underlying dementia
   - Continue 1-2mg ativan Q2 for agitation/withdrawal symptoms
   .
   #. Mixed Acid base disturbance - pt with triple disorder of AG
   metabolic acidosis, respiratory alkalosis and non-anion gap acidosis.
   1. AG Metabolic Acidosis
 AG closed. Acidosis most likely related to
   EtOH ketoacidosis. Pt with elevated ketones and acetone.
   - Continue IVF
   - Monitor chemistry q12
   - Continue thiamine and folate
   2. Resp alkalosis - likely secondary to underlying hepatic disease
   3. Non AG metabolic acidosis - may be related to dehydration, diarrhea,
   vs decrease in unmeasured cations - pt with low Mg, P and Ca.
   - continue rehydration as above
   - replete electrolytes
   .
   #. Pancytopenia - pt with low WBC, HCT and plts, most likely related to
   chronic liver disease leading to bone marrow suppression from EtOH.
   - B12 and folate - pending
   .
   #. EtOH Abuse - per ED records last drink 5 days ago, will place on
   CIWA scale given unclear time course of EtOH ingestion.
   - SW consult in am
   .
   #. COPD - continue supportive management, albuterol prn
   .
   #. Hx cardiac arrest - unclear etiology. Given EtOH history will
   aggressively replete electrolytes, monitor K and Mg and maintain K>4
   and Mg>2. Continue metoprolol.
   .
   #. FEN - regular diet
   .
   #. Prophy - SC heparin
   .
   ICU Care
   Nutrition:
   Comments: Low Na
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-7-18**] 03:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: Transfer to medical floor

2198-07-19 11:56:00 Physician Attending Progress Note
Chief Complaint: alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Received Ativan 1mg IV q hour for total 12 mg since 5pm yesterday. 1
   time dose of Haldol yesterday evening when he was deemed incompetent.
   24 Hour Events:
   Patient unable to provide history: Sedated, refusing interview
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2198-7-18**] 05:50 PM
   Lorazepam (Ativan) - [**2198-7-19**] 10:00 AM
   Other medications:
   ppi, thiamine, folate, kphos, neutraphos, ativan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-7-19**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 100 (92 - 145) bpm
   BP: 121/68(81) {102/64(76) - 156/129(133)} mmHg
   RR: 13 (12 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 27 Inch
             Total In:
                                                                  3,984 mL
                                                                  1,226 mL
   PO:
                                                                    220 mL
             TF:
   IVF:
                                                                  3,764 mL
                                                                  1,226 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    660 mL
   Urine:
                                                                  1,800 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,884 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: asleep, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   69 K/uL
   110 mg/dL
   0.5 mg/dL
   21 mEq/L
   2.7 mEq/L
   4 mg/dL
   106 mEq/L
   138 mEq/L
   31.0 %
   2.5 K/uL
        [image002.jpg]
                             [**2198-7-18**]  10:33 AM
                             [**2198-7-19**]  12:00 AM
                             [**2198-7-19**]  06:25 AM
   WBC
   3.9
   2.5
   Hct
   33.5
   31.0
   Plt
   93
   69
   Cr
   0.7
   0.4
   0.5
   Glucose
   129
   110
   Other labs: PT / PTT / INR:14.0/32.9/1.2, ALT / AST:34/77, Alk Phos / T
   Bili:78/3.5, Amylase / Lipase:64/118, Albumin:3.8 g/dL, Ca++:7.5 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   Dementia vs acute delerium.
   Being treated for alcohol withdrawal with ativan IV q 6h.
   I don't think he is behaving like pure alcohol withdrawal as he is
   somnolent on such a low dose of ativan, agitation can be attributed to
   dementia and personality rather than withdrawal.
   Severe phos, mg depletion- aggressively  replacing.
   Does not need MICU level care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-7-18**] 03:00 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2198-07-20 07:28:00 Physician Resident Progress Note
Chief Complaint: EtOH Withdrawal and Ketoacidosis
   24 Hour Events:
   Pt continues to have low electrolytes- repleting IV. Mental status
   improved this am. Pt answering questions, accepting medications and
   IVF. Ativan discontinued this am.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-7-19**] 01:00 PM
   Other medications:
   Changes to medical and family history:  None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-7-20**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 104 (94 - 138) bpm
   BP: 118/68(81) {99/60(70) - 150/129(133)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 27 Inch
             Total In:
                                                                  2,739 mL
                                                                    720 mL
   PO:
             TF:
   IVF:
                                                                  2,739 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    460 mL
   Urine:
                                                                  2,340 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    399 mL
                                                                    260 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows commands, Responds to: Verbal stimuli, Movement:
   decreased ROM of UE, Unable to lift arms above head
   Labs / Radiology
   79 K/uL
   10.5 g/dL
   139 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.0 mEq/L
   2 mg/dL
   102 mEq/L
   136 mEq/L
   30.8 %
   2.8 K/uL
        [image002.jpg]
                             [**2198-7-18**]  10:33 AM
                             [**2198-7-19**]  12:00 AM
                             [**2198-7-19**]  06:25 AM
                             [**2198-7-20**]  04:18 AM
   WBC
   3.9
   2.5
   2.8
   Hct
   33.5
   31.0
   30.8
   Plt
   93
   69
   79
   Cr
   0.7
   0.4
   0.5
   0.4
   Glucose
   129
   110
   139
   Other labs: PT / PTT / INR:14.0/32.9/1.2, ALT / AST:34/77, Alk Phos / T
   Bili:78/3.5, Amylase / Lipase:64/118, Albumin:3.8 g/dL, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:0.7 mg/dL
   Microbiology: [**2198-7-19**] 6:13 am SEROLOGY/BLOOD      Source:
   Line-peripheral.
      RAPID PLASMA REAGIN TEST (Pending):
   Assessment and Plan
   Assessment and Plan
   #. AMS - Unclear baseline
 per PCP pt is commonly histrionic in
   conversation but no know history of visual/auditory hallucination.  Pt
   evaluated by Psychiatry and deemed incompetent to make medical
   decisions. Concern for EtOH withdrawal given history of heavy EtOH use.
   Pt had been  somnolent on low doses of ativan, agitation and
   non-compliance with medical intervention may be contributed to by
   dementia and personality d/o rather than pure EtOH withdrawal.
   Overnight pt was increasingly sedated with ativan
 likely component of
   ativan intoxication. Discontinued ativan this am and pt now alert and
   oriented to place and time. Cooperative with medical care. Pt has a
   complicated picture for his AMS, could be multifactorial as above
   including: metabolic, Ativan intoxication, ?EtOH withdrawal, dementia
   related to long-term EtOH abuse.
   - Continue IVF/electrolyte repletion
   - Discontinue ativan, pt with no evidence of withdrawal symptoms this
   am
   - Given clinical improvement, consider psych re-eval to determine
   competence
   .
   #. Mixed Acid base disturbance - pt with triple disorder of AG
   metabolic acidosis, respiratory alkalosis and non-anion gap acidosis.
   1. AG Metabolic Acidosis
 AG closed. Acidosis most likely related to
   EtOH ketoacidosis. Pt with elevated ketones and acetone.
   - DC IVF, pt taking po and euvolemic
   - Monitor chemistry q12
 continue electrolyte repletion PRN
   - Continue thiamine and folate
   2. Resp alkalosis - likely secondary to underlying hepatic diease
   3. Non AG metabolic acidosis - may be related to dehydration, diarrhea,
   vs decrease in unmeasured cations - pt with low Mg, P and Ca.
   - encourage po fluid intake
   - replete lytes
   .
   # Tachycardia
 no evidence of current EtOH withdrawal. Likely [**3-3**]
   severe deconditioning. Pt with normal heart rate at rest.
   .
   #. Pancytopenia - pt with low WBC, HCT and plts, most likely related to
   chronic liver disease leading to bone marrow suppression from EtOH.
   - B12 and folate - WNL
   .
   #. EtOH Abuse
 SW consult
   .
   #. COPD - continue supportive management, albuterol prn
   .
   #. Hx cardiac arrest - unclear etiology. Given EtOH history will
   aggressively replete electrolytes, monitor K and Mg and maintain K>4
   and Mg>2. Continue metoprolol.
   .
   #. FEN - regular diet
   .
   #. Prophy - lovenox
   .
   ICU Care
   Nutrition:
   Comments: Diabetic Diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-7-18**] 03:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:I Transfer to medical floor